US04324787
2,6-Bis-(2-oxo-1-pyrrolidineacetamidomethyl)-pyridine
0.02 mol of 2,4,5-trichlorophenyl 2-oxo-pyrrolidineacetate is dissolved in 50 ml of dimethylformamide and reacted with a solution of 0.01 mol of 2,6-diaminomethylpyridine in 20 ml of dimethylformamide, at -5° C., whilst stirring and with the exclusion of moisture. After leaving the reaction solution to stand at room temperature for three hours, it is warmed to 60° C. for 2 hours, the solvent is then evaporated off, ether is added to the residue and the crystals which precipitate are filtered off. Melting point: 149° C., yield 57% of theory

reactant | 2,4,5-trichlorophenyl 2-oxo-pyrrolidineacetate | 0.02 mol | O=C1N(CCC1)CC(=O)OC1=C(C=C(C(=C1)Cl)Cl)Cl | C12H10Cl3NO3
reactant | 2,6-diaminomethylpyridine | 0.01 mol | NCC1=NC(=CC=C1)CN | C7H11N3
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2,6-Bis-(2-oxo-1-pyrrolidineacetamidomethyl)-pyridine | yield 57% | O=C1N(CCC1)CC(=O)NCC1=NC(=CC=C1)CNC(CN1C(CCC1)=O)=O | C19H25N5O4
